US05753659
4-Methyloxycarbonylmethylaminophenyl [1-(4-pyridyl)piperidin-4-yl]acetate
A solution of the foam in dry dichloromethane (5 ml) was added dropwise to a stirred solution of methyl N-(4-hydroxyphenyl)glycinate (210 mg) and triethylamine (0.33 ml) in dry dichloromethane (10 ml) and the mixture stirred for 16 hours. The mixture was diluted with dichloromethane, washed with water, dried and evaporated. Purification by flash chromatography on silica, eluting with 0-10% v/v methanol/dichloromethane and trituration of the resulting gum with diethyl ether gave the title compound, 80 mg, as a white solid: m.p. 120°-122° C.; NMR(d6DMSO), δ 8.13(2H,d), 6.84(2H,d), 6.81(2H,d), 6.54(2H,d), 6.01(1H,t), 3.96(2H,bd), 3.90(2H,d), 3.66(3H,s), 2.90(2H,dt), 2.50(2H,d +DMSO), 2.07(1H,m), 1.81(2H,bd), 1.30(2H,dq); m/e 384(M+H)+ ; calculated for C21 H25N3O4. 0.5 H2O: C, 64.3; H, 6.6; N, 10.7. found: C, 64.2; H, 6.3; N, 10.7%.

reactant | methyl N-(4-hydroxyphenyl)glycinate | 210 mg | OC1=CC=C(C=C1)NCC(=O)OC | C9H11NO3
reactant | triethylamine | 0.33 ml | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 5 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
product | 4-Methyloxycarbonylmethylaminophenyl [1-(4-pyridyl)piperidin-4-yl]acetate | N1=CC=C(C=C1)N1CCC(CC1)CC(=O)OC1=CC=C(C=C1)NCC(=O)OC | C21H25N3O4
